US08859592B2
A suspension of methyl 3,4-dimethyl-2-nitrobenzoate (23 g) and Pd/C (2.3 g) in methanol (400 ml) was stirred under hydrogen (1 bar) for 48 h and filtered through Celite under nitrogen atmosphere. Evaporation of methanol gave methyl 3,4-dimethyl-2-aminobenzoate (20 g). 1H-NMR (400 MHz, CDCl3): 7.67 (d, 1H), 6.6 (d, 1H), 3.86 (s, 3H), 2.27 (s, 3H), 2.1 (s, 3H).

reactant | methyl 3,4-dimethyl-2-nitrobenzoate | 23 g | CC=1C(=C(C(=O)OC)C=CC1C)[N+](=O)[O-] | C10H11NO4
solvent | methanol | 400 ml | CO | CH4O
catalyst | Pd/C | 2.3 g | [Pd] | Pd
product | methyl 3,4-dimethyl-2-aminobenzoate | 20 g | CC=1C(=C(C(=O)OC)C=CC1C)N | C10H13NO2
